US07417064B2
1-(Benzyl-methyl-amino)-hexan-3-one
Using a method similar to that for 1-(Benzyl-methyl-amino)-heptan-3-one, propylmagnesium chloride (2 M solution in diethyl ether) affords the title compound: mass spectrum (ion spray) m/z=220 (M+1): 1H NMR (CDCl3) δ 7.35-7.24 (m, 5H), 3.51 (s, 2H), 2.74-2.69 (m, 2H), 2.66-2.61 (m, 2H), 2.39 (t, 2H), 2.20 (s, 3H), 1.67-1.57 (m, 2H), 0.92(t, 3H).

reactant | 1-(Benzyl-methyl-amino)-heptan-3-one | C(C1=CC=CC=C1)N(CCC(CCCC)=O)C | C15H23NO
reactant | propylmagnesium chloride | 2 M | C(CC)[Mg]Cl
product | 1-(Benzyl-methyl-amino)-hexan-3-one | C(C1=CC=CC=C1)N(CCC(CCC)=O)C | C14H21NO
